US06180653B2
Preparation of 3-(2-naphthylacetyl)amino-5-(5-vinyl-3-pyridyl)-pyrazole
5-(5-Bromo-3-pyridyl)-3-(2-naphthylacetyl)aminopyrazole (509.8 mg), tributylvinyl tin (1.1 ml), a tris(dibenzylideneacetone)dipalladium—chloroform complex (74.2 mg), tri-2-furylphosphine (133.3 mg) and lithium chloride (311.3 mg) were dissolved in N-methylpyrrolidone (10 ml) with heating, and the mixture was stirred at 80° C. overnight. After the reaction solution was allowed to cool, it was poured into a saturated aqueous potassium fluoride solution (100 ml)—chloroform (100 ml) and vigrously stirred for 30 minutes. The mixture was filtered through Celite and the filtrate was separated. The aqueous layer was extracted with chloroform (50 ml×3). The organic layers were combined, dried over anhydrous magnesium sulfate and treated with an activated carbon. Then, the solvent was distilled away under a reduced pressure. The resultant residue was purified by column chromatography on silica gel (ethyl acetate:hexane=5: 1→chloroform:methanol=10:1) and then crystallized from chloroform to obtain the title compound (58.8 mg) as white crystals (melting point: 218-220° C.).

reactant | 5-(5-Bromo-3-pyridyl)-3-(2-naphthylacetyl)aminopyrazole | 509.8 mg | BrC=1C=C(C=NC1)C1=CC(=NN1)NC(CC1=CC2=CC=CC=C2C=C1)=O | C20H15BrN4O
reactant | tributylvinyl tin | 1.1 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | tri-2-furylphosphine | 133.3 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | lithium chloride | 311.3 mg | [Cl-].[Li+]
reactant | potassium fluoride | 100 ml | [F-].[K+]
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-naphthylacetyl)amino-5-(5-vinyl-3-pyridyl)-pyrazole | 58.8 mg | C1=C(C=CC2=CC=CC=C12)CC(=O)NC1=NNC(=C1)C=1C=NC=C(C1)C=C | C22H18N4O
